US07846959B2
To a solution of 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate (8.36 g, 27.8 mmol) in THF (100 mL) and methanol (30 mL) at 0° C. was added sodium borohydride (3.0 g, 79 mmol). The mixture was stirred for 40 min, and then unreacted hydride was quenched with 10% aqueous citric acid. The organic solvents were removed in vacuo. An orange solid precipitated from the resulting aqueous mixture. This solid was collected by filtration, rinsed with water, triturated with ether, and dried in vacuo. Desired 3-(4-amino-3-nitrophenyl)-2-benzofuran-1(3H)-one was obtained as a bright orange solid (5.23 g, 19.4 mmol, 69% yield). 1H NMR (400 MHz, d6-DMSO): 8.03 (d, 1H), 7.90 (d, 1H), 7.76 (t, 1H), 7.65-7.60 (m, 3H), 7.45 (d, 1H), 7.11 (dd, 1H), 6.99 (d, 1H), 6.66 (s, 1H); MS (EI) for Cl4H10N2O4: 303 (MNa+).

reactant | 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate | 27.8 mmol, 8.36 g | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)[O-])C=CC=C1)[N+](=O)[O-]
reactant | sodium borohydride | 79 mmol, 3.0 g | [BH4-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
product | 3-(4-amino-3-nitrophenyl)-2-benzofuran-1(3H)-one | NC1=C(C=C(C=C1)C1OC(C2=C1C=CC=C2)=O)[N+](=O)[O-] | C14H10N2O4
